US05616596
A solution of 2,5-dibromothiophene (19.23 g, 75.5 mmol) in anhydrous THF (400 mL) was treated at -78° C. under nitrogen with a 2.5M solution of n-butyllithium in hexane (30.0 mL, 75.5 mmol). The resulting solution was stirred for 45 minutes at -78° C. and then transferred by cannula into a cold (-78° C.) solution of N-methoxy-N-methyl-4-fluorobenzamide (12.57 g, 68.6 mmol), prepared as in step 1, in anhydrous THF (300 mL) with siring. After 30 minutes at -78° C., the reaction was quenched by the addition of a saturated solution of NH4Cl (15 mL) and poured into ethanol (350 mL) containing 10% HCl (140 mL). The mixture was partitioned between brine and 1:1 ether and dichloromethane. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was crystallized from pentane to give 16.8 g (86%) of 2-bromo-5-(4-fluorophenylcarbonyl)thiophene.

reactant | 2,5-dibromothiophene | 75.5 mmol, 19.23 g | BrC=1SC(=CC1)Br | C4H2Br2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 75.5 mmol, 30.0 mL | CCCCCC | C6H14
reactant | N-methoxy-N-methyl-4-fluorobenzamide | 68.6 mmol, 12.57 g | CON(C(C1=CC=C(C=C1)F)=O)C | C9H10FNO2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-bromo-5-(4-fluorophenylcarbonyl)thiophene | 16.8 g, 86% | BrC=1SC(=CC1)C(=O)C1=CC=C(C=C1)F | C11H6BrFOS
